US07939531B2
[2-(1H-Indol-3-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone was prepared following the same procedure by using [2-(1-benzenesulfonyl-1H-indol-3-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone as starting material. The product was obtained in 70% after SiO2 chromatography (DCM/[DCM/MeOH 9.5/1] 10/0 to 0/10).

reactant | [2-(1-benzenesulfonyl-1H-indol-3-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C28H26N4O3S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [2-(1H-Indol-3-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-(1-methyl-cyclohexyl)-methanone | N1C=C(C2=CC=CC=C12)C=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C22H22N4O
